2170-05-20 09:24:00 Physician Attending Progress Note
Chief Complaint: Fever, hypotension, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2170-5-20**] 01:21 AM
 PICC LINE - START [**2170-5-20**] 01:22 AM
   Admitted to the ICU overnight. Received 2L NS O/N for Hypotension (SBP
   in 80's).  Placed on bipap with improvement of hypercarbic resp
   acidosis on ABG.
   Started on Vanc/cefepime/cipro/caspofungin in ICU.
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2170-5-20**] 03:29 AM
   Vancomycin - [**2170-5-20**] 04:21 AM
   Caspofungin - [**2170-5-20**] 04:28 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-5-20**] 04:00 AM
   Other medications:
   See Resident Note for full list.  Cefepime, Vancomycin, Caspo, cipro,
   Bactrim, ACV, hydrocortisone, tacrolimus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2170-5-20**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 112 (112 - 148) bpm
   BP: 96/63(69) {84/49(57) - 117/71(83)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 100%
   Height: 68 Inch
   CVP: 6 (5 - 9)mmHg
   Total In:
                                                                  3,795 mL
   PO:
   TF:
   IVF:
                                                                  1,795 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    520 mL
   Urine:
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,275 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   PEEP: 10 cmH2O
   FiO2: 15L
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.35/44/113/26/-1
   Physical Examination
   General Appearance: Thin, Somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases, Wheezes : , Diminished: at bases B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Firm skin from
   GVHD.  Old, healing laparotomy scar
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Severe GVHD
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   372 K/uL
   148 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   12 mg/dL
   105 mEq/L
   136 mEq/L
   30.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2170-5-20**]  01:46 AM
                             [**2170-5-20**]  02:33 AM
                             [**2170-5-20**]  05:30 AM
                             [**2170-5-20**]  05:32 AM
   WBC
   6.7
   Hct
   30.7
   Plt
   372
   Cr
   0.5
   0.4
   TCO2
   30
   25
   Glucose
   112
   148
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.1 mg/dL
   Fluid analysis / Other labs: Cortisol 25.3
   Imaging: CXR: L PICC line, R IJ in place. R lower lung field opacity.
   L layering effusion.
   Chest CT:  Bilateral lower lobe atelectasis with small/moderate
   effusion on L.  Abrupt cutoff of LLL bronchus.
   Microbiology: BCx: Pending
   UCx: Pending
   Fungal Blood Cx: Pending
   BCx ([**Hospital1 82**]): pending
   Yet to produce sputum
   Assessment and Plan
   33 yo man with h/o sct for lymphoma, c/b GVHD in ICU with hypoxemia,
   fever, and hypotension.
   1. Hypotension/Fever/Sepsis: Most likely source is dense infiltrates in
   lungs bilaterally.
      -Agree with empiric cefepime, vanco, cipro, caspo.
      -Thoracentesis this afternoon when overnight lovenox dose wears off
   to r/o empyema.
      -F/u Cultures this afternoon (here and [**Hospital1 82**])
      -D/C PICC line.
      -Will consult ID.
      -Stress dose steroids for now.
      -Hemodynamics improved with IVF overnight.  Bolus as need based on
   BP and CVP.
   2. Hypoxemia/Hypercarbia: Due to large bilateral
   infiltrates/atelectasis.  Chest CT appears that there is an abrupt
   cutoff in LLL bronchus --> there does appear to be air bronchograms and
   no distinct transition point on the R.
   -Would not bronch at the moment given the tenous respiratory status.
   -Will trial off of Bipap and monitor closely.
   -Chest PT.
   -Doubtful that thoracentesis will correct atelectasis as old CT showed
   no atelectasis with similar sized effusion
   4. GVHD: Continue steroids, Prograf, Cellcept.  Will need to discuss
   with BMT team the risk/benfit of a reduction in level of
   immunosuppressive given repeat infections
   5. PE: Cont LMWH after thoracentesis
   6. ppx: iv ppi, LMWH (therapeutic)
   7. Access: R IJ, PICC (to be DC'd)
   8. Full Code
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   18 Gauge - [**2170-5-20**] 01:21 AM
   PICC Line - [**2170-5-20**] 01:22 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-05-21 06:08:00 Physician Resident Progress Note
Chief Complaint: Pneumonia (in immunocompromised host)
   24 Hour Events:
 PICC LINE - STOP [**2170-5-20**] 12:19 PM
 THORACENTESIS - At [**2170-5-20**] 03:58 PM
   PICC line discontinued and tip sent for culture
   s/p thoracentesis, fluid- GS negative, no polys.  LDH and T protein
   boderline between exudative and transudative, pH 7.36, sent for
   cytology, viral culture, fungal and AFB.
   Allergies:
   Last dose of Antibiotics:
   Caspofungin - [**2170-5-20**] 04:28 AM
   Cefipime - [**2170-5-20**] 07:30 PM
   Ciprofloxacin - [**2170-5-20**] 07:51 PM
   Vancomycin - [**2170-5-20**] 07:55 PM
   Acyclovir - [**2170-5-20**] 08:16 PM
   Bactrim (SMX/TMP) - [**2170-5-20**] 09:43 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-20**] 08:00 AM
   Morphine Sulfate - [**2170-5-21**] 12:20 AM
   Hydromorphone (Dilaudid) - [**2170-5-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Patient complains of pleuritic chest pain and
   dyspnea.
   Flowsheet Data as of  [**2170-5-21**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 106 (106 - 137) bpm
   BP: 124/79(89) {96/52(64) - 140/79(94)} mmHg
   RR: 18 (14 - 32) insp/min
   SpO2: 100%
   Height: 68 Inch
    CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  6,260 mL
                                                                    187 mL
   PO:
   TF:
   IVF:
                                                                  4,260 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    830 mL
   Urine:
                                                                  1,720 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,540 mL
                                                                   -644 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ////
   Physical Examination
   General: Patient has flat affect. Somnolent during exam.
   Respiratory: Left lung frontal field is clear to auscultation. Right
   lung frontal field has pleural friction rub loudest inferior to right
   axilla. No crackles appreciated. No wheezing.
   Cardiac:  Tachycardic. No murmurs appreciated.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdomen: Tense due to skin, non-tender, large midline laporotomy scar.
   Skin:  Markedly thickened over entire body. Pressure ulcer with bandage
   covering on left lateral ankle.
   Neurologic: Responds to: Vocal Stimuli, Tone: Not assessed
   Labs / Radiology
   327 K/uL
   8.8 g/dL
   148 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   12 mg/dL
   105 mEq/L
   136 mEq/L
   29.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2170-5-20**]  01:46 AM
                             [**2170-5-20**]  02:33 AM
                             [**2170-5-20**]  05:30 AM
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
   WBC
   6.7
   9.9
   Hct
   30.7
   29.9
   Plt
   372
   327
   Cr
   0.5
   0.4
   TCO2
   30
   25
   Glucose
   112
   148
   Other labs: Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:337 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 33 year old male with history of large cell lymphoma
   status post allogenic stem cell transplant in [**6-/2167**] with
   complications of severe chronic extensive skin and oral GVHD, requiring
   chronic immunosuppression; recent admits for [**First Name5 (NamePattern1) 188**] [**Last Name (NamePattern1) 2630**]
   fungemia and S. pneumo bacteremia presenting with hypoxemia, fevres,
   hypotension found to have new RLL consolidation and increased moderate
   left sided pleural effusion with compressive LLL atelectasis.
   # Sepsis (hypotension/fevers) / pneumonia: now normotensive.
   tachycardic however per old d/c summarry baseline tachycardia HR
   100-120.   Continue to treat infection and pain.
   -h/o mutliple infectious complications of his GVH
   -treating with vanc / cefepime / caspo / cipro
   -f/u ID recs
   -f/u thoracentesis results, most likely exudative pH normal, LDH and T
   protein borderline but small amt of blood in pleural fluid so possibly
   t protein and LDH slightly falsely elevated
   -GS negative, f/u AFB, viral, bacterial and fungal culture of
   thoracentesis
   -f/u glucan and galactomannan from this a.m.
   -f/u CMV viral load from this a.m.
   -f/u cultures of PICC line
   -f/u urine legionella antigen
   -hypoxia- now tolerating non rebreather, wean O2 as tolerted
   (previously on BiPAP)
   # Pleuritic chest pain: new today this a.m., has been coughing and has
   h/o rib fractures.  Reproducible on exam and only pleuritic. Given
   pleural rub on exam, likely pleuritic reaction to developing pneumonia.
   -f/u a.m. cxr to evaluate for worsening of pna or new rib fractures
   -dilaudid prn pain
   -PE in past but on therapeutic dose of lovenox
   # GVHD: Severe oral and skin, on TPN as outpatient via PICC.
   -f/u heme onc recs regarding immune suppressants
   - continuing home regimen of tacrolimus, will switch prednisone to
   hydrocort for now given hypotension.
   - Check tacrolimus levels, get recs for Tacrolimus IV due to inability
   to take PO.
   - continue acyclovir and bactrim ppx
   - Onc will write for Gleevec (on this for severe GVH of skin- obtained
   on compassionate use)
   # Cardiomyopathy: previosuly EF ~40-45%. And has baseline tachycardia
   to 100-110s, previously felt to be secondary to chemotherapy,
   radiation, and/or GVHD.
   - hold nodal agents for now.
   -# History of PE: On fragmin as outpatient
   - Continue therapeutic anticoagulation with lovenox.
   # PPx: PPI, lovenox therapeutic
   # FEN: NPO for now given high O2 requirement and tenuous respiratory
   status, attempt advancing diet later today if tolerates
   -Ativan PRN for nausea
   -Nutrition consult for TPN
   # Access: RIJ, PIV x1
   # Code: Full code.
   ICU Care
   Nutrition: Initiating TPN
   Glycemic Control:  SSI
   Lines:
   RIJ Multi Lumen - [**2170-5-20**] 01:21 AM
   18 Gauge - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-05-21 10:21:00 Physician Attending Progress Note
Chief Complaint: 33 yr man with b-Cell Lymphoma, s/p transplant [**2166**]
   with GVHD, in  remission
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bacteremia, fungemia
   Presents from [**Hospital1 82**] with septic physiology, fever to 103,
   hypotension, o2 sat's in 80's
   24 Hour Events:
 PICC LINE - STOP [**2170-5-20**] 12:19 PM
 THORACENTESIS - At [**2170-5-20**] 03:58 PM
   [**Female First Name (un) **] yesterday, borderline exudate, LDH 217, pH   7.36, prot 2.4
   Dyspnea, r chest pain
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2170-5-20**] 04:28 AM
   Cefipime - [**2170-5-20**] 07:30 PM
   Ciprofloxacin - [**2170-5-20**] 07:51 PM
   Bactrim (SMX/TMP) - [**2170-5-20**] 09:43 PM
   Vancomycin - [**2170-5-21**] 08:53 AM
   Acyclovir - [**2170-5-21**] 09:26 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-5-21**] 12:20 AM
   Enoxaparin (Lovenox) - [**2170-5-21**] 06:10 AM
   Pantoprazole (Protonix) - [**2170-5-21**] 09:02 AM
   Hydromorphone (Dilaudid) - [**2170-5-21**] 09:23 AM
   Other medications:
   RISS, hydrocort, tacrolimus, lovenox, colace, protonix, mycophenolate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-21**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 106 (106 - 137) bpm
   BP: 123/78(88) {101/52(64) - 140/79(94)} mmHg
   RR: 24 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  6,560 mL
                                                                    889 mL
   PO:
   TF:
   IVF:
                                                                  4,560 mL
                                                                    889 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,190 mL
   Urine:
                                                                  1,720 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,840 mL
                                                                   -301 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : ), r friction rub
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, GVHD changes diffusely
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   327 K/uL
   127 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.2 mEq/L
   10 mg/dL
   96 mEq/L
   133 mEq/L
   29.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2170-5-20**]  01:46 AM
                             [**2170-5-20**]  02:33 AM
                             [**2170-5-20**]  05:30 AM
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
   WBC
   6.7
   9.9
   Hct
   30.7
   29.9
   Plt
   372
   327
   Cr
   0.5
   0.4
   0.3
   TCO2
   30
   25
   Glucose
   112
   148
   127
   Other labs: Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:337 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   33 yo man with h/o sct for lymphoma, c/b GVHD in ICU with hypoxemia,
   fever, and hypotension.
   1. Hypotension/Fever/Sepsis: Most likely source is dense infiltrates in
   lungs bilaterally.
      -Agree with empiric cefepime, vanco, cipro, caspo.
      -F/u Cultures
      -D/C PICC line.
      -Will consult ID.
      -Stress dose steroids for now.
      -Hemodynamics improved with IVF overnight.  Bolus as need based on
   BP and CVP.
   2. Hypoxemia/Hypercarbia: Due to large bilateral
   infiltrates/atelectasis.  Chest CT appears that there is an abrupt
   cutoff in LLL bronchus --> there does appear to be air bronchograms and
   no distinct transition point on the R.  Improving.
   -Would not bronch at the moment given the tenous respiratory status.
   -Will trial off of Bipap and monitor closely.
   -Chest PT.
   -Doubtful that thoracentesis will correct atelectasis as old CT showed
   no atelectasis with similar sized effusion
   -Appears fluid overloaded, consider diuresis
   3. GVHD: Continue steroids, Prograf, Cellcept.
       Will need to discuss with BMT team the risk/benfit of a reduction
   in level of immunosuppressive given repeat infections
       Consider Gleevic for GVHD
       ? Montelukast
   4. PE: Cont LMWH after thoracentesis
   5. ppx: iv ppi, LMWH (therapeutic)
   6. Full Code
   ICU Care
   Nutrition:
   Comments: Nutrition Consult pending
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   18 Gauge - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2170-05-22 07:12:00 Physician Resident Progress Note
Chief Complaint: Hypoxemic respiratory failure.
   24 Hour Events:
   #Patient became hypoxic yesterday and hypoxia was refractory to IV
   Lasix (X 2) as well as trial of BiPAP. Was eventually intubated around
   [**2161**] yesterday.
   #Initiated TPN therapy yesterday.
   #Bleeding requiring direct pressure for several minutes by nurse
   following peripheral IV removal. AM lovenox held.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-5-21**] 09:26 AM
   Caspofungin - [**2170-5-21**] 11:03 AM
   Cefipime - [**2170-5-21**] 07:54 PM
   Ciprofloxacin - [**2170-5-21**] 07:54 PM
   Bactrim (SMX/TMP) - [**2170-5-21**] 07:54 PM
   Vancomycin - [**2170-5-21**] 08:35 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-21**] 09:02 AM
   Enoxaparin (Lovenox) - [**2170-5-21**] 06:00 PM
   Furosemide (Lasix) - [**2170-5-21**] 08:46 PM
   Lorazepam (Ativan) - [**2170-5-21**] 08:47 PM
   Hydromorphone (Dilaudid) - [**2170-5-21**] 11:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 99 (97 - 130) bpm
   BP: 97/59(68) {90/51(60) - 137/83(95)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 9 (8 - 11)mmHg
   Total In:
                                                                  3,659 mL
                                                                  1,850 mL
   PO:
   TF:
   IVF:
                                                                  3,404 mL
                                                                  1,555 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    490 mL
   Urine:
                                                                  3,500 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    159 mL
                                                                  1,360 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.43/59/135/36/12
   Ve: 6.9 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: No acute distress, Patient is intubated.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: over both lung
   fields. Coarse breath sounds.)
   Extremities: RLE: Absent edema, LLE: Absent edema
   Skin:  Markedly thickened with grayish discoloration over entire body.
   Neurologic: Patient is unresponsive to voice, but repsonds to noxious
   stimuli.
   Labs / Radiology
   263 K/uL
   7.7 g/dL
   180 mg/dL
   0.4 mg/dL
   36 mEq/L
   4.1 mEq/L
   15 mg/dL
   94 mEq/L
   133 mEq/L
   25.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2170-5-20**]  01:46 AM
                             [**2170-5-20**]  02:33 AM
                             [**2170-5-20**]  05:30 AM
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
                             [**2170-5-21**]  09:31 PM
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
   WBC
   6.7
   9.9
   5.2
   Hct
   30.7
   29.9
   25.6
   Plt
   372
   327
   263
   Cr
   0.5
   0.4
   0.3
   0.4
   0.4
   TCO2
   30
   25
   40
   40
   40
   Glucose
   112
   148
   127
   232
   180
   Other labs: PT / PTT / INR:11.2/35.2/0.9, Differential-Neuts:92.3 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.4
   g/dL, LDH:337 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:1.4 mg/dL
   Microbiology: [**2170-5-20**] - Legionella Urinary Antigen: negative
   [**2170-5-20**] - PICC line tip: NGTD
   [**2170-5-20**] - PLEURAL FLUID:
   GRAM STAIN (Final [**2170-5-20**]):
         NO PMNS.
         NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NGTD
   ACID FAST SMEAR (Final [**2170-5-21**]):
         NO AFB SEEN ON DIRECT SMEAR.
   [**2170-5-21**] - Sputum CX: Contaminated by [**Last Name (un) **] secretions.
   Assessment and Plan
   #Respiratory failure: Possibly mixed with components of hypoxemic and
   hypercapnic repiratory failure. Patient
s repiratory status continued
   to decline yesterday despite diuresis and trial of BiPAP
   -Continue mechanical ventilation and liberate when tolearted.
   - Bronchoscopy today to assess airway pathology as well as mucous
   plugging.
   -Attempt diuresis as blood pressure tolerates. Patient had positive
   fluid balance in 6 hours this AM.
   #GVHD: Resulting from allogenic BMT. Extensive skin and oral
   involvement.
   - Continue home immunosupressive regimen including tacrolimus and
   hydrocortisone as tolerated by route of medication. Switch PO meds to
   IV as is possible. Will f/u with BMT on tacrolimus IV options.
   - Continue acyclovir and bactrim prophylaxis.
   #Sepsis: Likely pulmonary source given respiratory failure in setting
   of worsening CXR appearance as well as rhonchorous breath sounds.
   - F/U blood cultures from outside hospital as well as pending cultures
   here.
   - Obtain sputum cultures via previously mentioned bronchoscopy.
   - Continue caspofungin, cefipime, cipro, and Vancomycin
   #Hx of PE: Given reported pleuritic chest pain yesterday and worsening
   pulmonary status, should remain suspicious despite systemic
   anticoagulation.
   - Continue lovenox at PM dose despite bleeding earlier today.
   #Hx of cardiomyopathy: Previous EF of 40-45%. Baseline tachycardia of
   100s-110s.
   - Hold nodal blocking agents at this time.
   #FEN: TPN is standard home regimen for patient
   - Continue TPN per nutrition recs.
   - Will reattempt OG placement as tolerated, uderstanding that patient
   anatomy is compromised due to oral GVHD involvement.
   #Code: Full Code.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-21**] 06:00 PM 42.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:  Sliding scale insulin
   Lines:
   RIJ Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: Systemic prophylaxis
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2170-05-22 10:24:00 Physician Attending Progress Note
Chief Complaint: Sepsis, GVHD
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   S/P BM Transplant
   24 Hour Events:
   Diuresed, failed BiPAP for hypoxemia, intubated last PM
   Started TPN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-5-21**] 09:26 AM
   Vancomycin - [**2170-5-22**] 08:00 AM
   Caspofungin - [**2170-5-22**] 08:00 AM
   Bactrim (SMX/TMP) - [**2170-5-22**] 08:40 AM
   Ciprofloxacin - [**2170-5-22**] 09:00 AM
   Cefipime - [**2170-5-22**] 09:45 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-5-21**] 06:00 PM
   Furosemide (Lasix) - [**2170-5-21**] 08:46 PM
   Lorazepam (Ativan) - [**2170-5-21**] 08:47 PM
   Hydromorphone (Dilaudid) - [**2170-5-21**] 11:11 PM
   Pantoprazole (Protonix) - [**2170-5-22**] 08:00 AM
   Other medications:
   RISS, tacrolimus, epogen, colace, cellcept, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-22**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 87 (87 - 130) bpm
   BP: 100/65(73) {90/50(60) - 137/83(95)} mmHg
   RR: 16 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 10 (8 - 11)mmHg
   Total In:
                                                                  3,659 mL
                                                                  3,080 mL
   PO:
   TF:
   IVF:
                                                                  3,404 mL
                                                                  2,648 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    760 mL
   Urine:
                                                                  3,500 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    159 mL
                                                                  2,320 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.43/59/135/36/12
   Ve: 11.3 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Diffuse GVHD
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   263 K/uL
   180 mg/dL
   0.4 mg/dL
   36 mEq/L
   4.1 mEq/L
   15 mg/dL
   94 mEq/L
   133 mEq/L
   25.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2170-5-20**]  01:46 AM
                             [**2170-5-20**]  02:33 AM
                             [**2170-5-20**]  05:30 AM
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
                             [**2170-5-21**]  09:31 PM
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
   WBC
   6.7
   9.9
   5.2
   Hct
   30.7
   29.9
   25.6
   Plt
   372
   327
   263
   Cr
   0.5
   0.4
   0.3
   0.4
   0.4
   TCO2
   30
   25
   40
   40
   40
   Glucose
   112
   148
   127
   232
   180
   Other labs: PT / PTT / INR:11.2/35.2/0.9, Differential-Neuts:92.3 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.4
   g/dL, LDH:337 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:1.4 mg/dL
   Imaging: Tube in place, PNA unchanged
   Microbiology: Multiple pending studies
   Assessment and Plan
   33 yo man with h/o sct for lymphoma, c/b GVHD in ICU with hypoxemia,
   fever, and hypotension.
    1. Hypotension/Fever/Sepsis: Most likely source is dense infiltrates
   in lungs bilaterally.
      -Agree with empiric cefepime, vanco, cipro, caspo.
      -F/u Cultures
      -Stress dose steroids for now.
      -Hemodynamics improved with IVF overnight.  Bolus as need based on
   BP and CVP.
   2. Hypoxemia/Hypercarbia: Due to large bilateral
   infiltrates/atelectasis.  Chest CT appears that there is an abrupt
   cutoff in LLL bronchus --> there does appear to be air bronchograms and
   no distinct transition point on the R
   -Now intubated on full vent suport
   -Appears fluid overloaded, continue diuresis
    3. GVHD: Continue steroids, Prograf, Cellcept.
       Will need to discuss with BMT team the risk/benfit of a reduction
   in level of immunosuppressive given repeat infections
       Gleevic for GVHD
       Montelukast
   4. PE: Cont LMWH after thoracentesis
   5. ppx: iv ppi, LMWH (therapeutic)
   6. Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-21**] 06:00 PM 42.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2170-05-23 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2170-5-22**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2170-5-22**] 08:00 AM
   Vancomycin - [**2170-5-22**] 07:27 PM
   Ciprofloxacin - [**2170-5-22**] 08:27 PM
   Bactrim (SMX/TMP) - [**2170-5-22**] 08:31 PM
   Cefipime - [**2170-5-22**] 09:37 PM
   Acyclovir - [**2170-5-22**] 10:05 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-22**] 08:00 AM
   Midazolam (Versed) - [**2170-5-22**] 08:19 PM
   Enoxaparin (Lovenox) - [**2170-5-22**] 08:36 PM
   Fentanyl - [**2170-5-23**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 67 (67 - 105) bpm
   BP: 120/79(89) {90/50(60) - 133/83(94)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  5,050 mL
                                                                    387 mL
   PO:
   TF:
   IVF:
                                                                  4,306 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                  1,130 mL
   Urine:
                                                                  2,160 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,890 mL
                                                                   -743 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Patient appears uncomfortable and was coughing
   against the ventilator.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Diffusely over both
   frontal lung fields; however, sounds better than previous exams.),
   Overall, presentation of breath sounds has improved since two days ago.
   Abdominal: No(t) Distended, Abdomen is difficult to assess for softness
   or tenderness given patient's skin condition and non-communicative
   status. He does not become increasingly agitated during abd exam. Bowel
   sounds are hypoactive.
   Extremities: Right: No edema, Left: No edema, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Markedly thickened and [**Doctor Last Name 734**] over entire body.
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   298 K/uL
   7.7 g/dL
   190 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.7 mEq/L
   17 mg/dL
   100 mEq/L
   138 mEq/L
   25.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2170-5-20**]  05:30 AM
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
                             [**2170-5-21**]  09:31 PM
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
   WBC
   6.7
   9.9
   5.2
   4.9
   Hct
   30.7
   29.9
   25.6
   25.3
   Plt
   372
   327
   263
   298
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.3
   TCO2
   25
   40
   40
   40
   Glucose
   148
   127
   232
   180
   271
   190
   Other labs: PT / PTT / INR:11.2/35.2/0.9, Differential-Neuts:92.3 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.4
   g/dL, LDH:337 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Microbiology: [**2170-5-22**] - BAL GRAM STAIN:
   4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
   1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS.
   [**2170-5-22**] - Crytococcal Antigen: NEGATIVE
   [**2170-5-21**] - CMV viral load:
   None detected
   [**2170-5-20**] - PICC Line Tip CX:
   No sig growth
   [**2170-5-20**] - Pleural fliud CX:
   No Growth To Date
   Assessment and Plan
   33 year old male with h/o large B-cell lymphoma status post allogenic
   stem cell transplant in [**2166**], complicated by severe graft versus host
   disease of the skin and oral mucosa. Recent hospital admissions with
   fungemia and s. pneumo bacteremia. For this admission he presented with
   fever, dyspnea, and abdominal pain.
   #Respiratory failure: Possibly mixed with components of hypoxemic and
   hypercapnic repiratory failure. Likely primarily caused by pulmonary
   infection.
   -Continue mechanical ventilation. Move towards liberation from vent by
   lightening sedation today and then switching to a pressure support
   mode.
   - Bronchoscopy yesterday revealed some airway blockage with secretions
   and inflammatory debris. Was suctioned. No change in appearance of CXR
   this AM.
   -Attempt diuresis as blood pressure tolerates.
   #GVHD: Resulting from allogenic BMT. Extensive skin and oral
   involvement.
   - Continue home immunosupressive regimen including tacrolimus and
   hydrocortisone as tolerated by route of medication. Still no PO access
   available.
   - Continue acyclovir (160 MG IV daily) and bactrim prophylaxis.
   #Sepsis: Likely pulmonary source given respiratory failure in setting
   of worsening CXR appearance as well as fact that sputum gram stain from
   bronchoscopy shows multiple PMNs and gram positive cocci in pairs.
   - F/U blood cultures from outside hospital as well as pending cultures
   here.
   - F/U on sputum culture from bronchoscopy yesterday.
   - Continue caspofungin, cefipime, cipro, and vancomycin
   - Be aware of attenuated fever curve due to hydrocortisone.
   #Hx of PE: Given reported pleuritic chest pain yesterday and worsening
   pulmonary status, should remain suspicious despite systemic
   anticoagulation.
   - Continue lovenox systemic anticoagulation home regimen.
   #Hx of cardiomyopathy: Previous EF of 40-45%. Baseline tachycardia of
   100s-110s.
   - Hold nodal blocking agents at this time.
   #FEN: TPN is standard home regimen for patient
   - Continue TPN per nutrition recs.
   #Code: Full Code
   ICU Care
   Nutrition:
   Comments: On TPN, which is home nutrition method.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2170-05-23 10:17:00 Physician Attending Progress Note
Chief Complaint: GVHD with respiratory failure 2ary to PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2170-5-22**] 02:00 PM
   Otherwise stable overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2170-5-22**] 08:00 AM
   Cefipime - [**2170-5-22**] 09:37 PM
   Acyclovir - [**2170-5-22**] 10:05 PM
   Vancomycin - [**2170-5-23**] 08:30 AM
   Bactrim (SMX/TMP) - [**2170-5-23**] 08:52 AM
   Ciprofloxacin - [**2170-5-23**] 09:47 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2170-5-22**] 08:19 PM
   Pantoprazole (Protonix) - [**2170-5-23**] 08:39 AM
   Enoxaparin (Lovenox) - [**2170-5-23**] 08:39 AM
   Fentanyl - [**2170-5-23**] 09:00 AM
   Other medications:
   RISS, hydrocortisone, tacrolimus, cellcept
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-23**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 89 (67 - 98) bpm
   BP: 105/65(75) {105/65(75) - 133/83(94)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  5,476 mL
                                                                  1,933 mL
   PO:
   TF:
   IVF:
                                                                  4,306 mL
                                                                  1,218 mL
   Blood products:
   Total out:
                                                                  2,160 mL
                                                                  1,430 mL
   Urine:
                                                                  2,160 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,316 mL
                                                                    503 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Cool with severe diffuse GVHD
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Non -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   298 K/uL
   190 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.7 mEq/L
   17 mg/dL
   100 mEq/L
   138 mEq/L
   25.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2170-5-20**]  05:30 AM
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
                             [**2170-5-21**]  09:31 PM
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
   WBC
   6.7
   9.9
   5.2
   4.9
   Hct
   30.7
   29.9
   25.6
   25.3
   Plt
   372
   327
   263
   298
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   0.3
   TCO2
   25
   40
   40
   40
   Glucose
   148
   127
   232
   180
   271
   190
   Other labs: PT / PTT / INR:11.2/35.2/0.9, Differential-Neuts:87.0 %,
   Band:2.0 %, Lymph:4.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.4 g/dL, LDH:337 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Microbiology: No new positive cultures
   Assessment and Plan
   33 yo man with h/o sct for lymphoma, c/b GVHD in ICU with hypoxemia,
   fever, and hypotension.
    1. Hypotension/Fever/Sepsis: Most likely source is dense infiltrates
   in lungs bilaterally.
      -Agree with empiric cefepime, vanco, cipro, caspo.
      -F/u Cultures
      -Stress dose steroids for now.
      -Hemodynamics improved with IVF overnight.  Bolus as need based on
   BP and CVP.
   2. Hypoxemia/Hypercarbia: Due to large bilateral
   infiltrates/atelectasis.  Chest CT appears that there is an abrupt
   cutoff in LLL bronchus --> there does appear to be air bronchograms and
   no distinct transition point on the R
    Now intubated on full vent support.
    Lighten sedation; consider pressure support trial
   3. GVHD: Continue steroids, Prograf, Cellcept.
       Gleevic for GVHD
       Montelukast for GVHD
   4. PE: Cont LMWH after thoracentesis
    5. ppx: iv ppi, LMWH (therapeutic)
   6. Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-22**] 06:00 PM 71 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-05-24 08:04:00 Physician Resident Progress Note
Chief Complaint: Sepsis with respiratory failure
   24 Hour Events:
   # PS trial of [**4-2**] and [**4-7**] and lasted only 2 minutes with tidal volumes
   of ~300 and associated tachypnea to the 30s and pulse to 130. Was put
   back on VC.
   # BMT consult requested immunoglobulins due to concern for
   hypogammaglobulinemia. Labs this AM showed low IgG, IgA and IgM levels.
   # Started an insulin infusion due to consistently high blood glucose
   yesterday (200-300s).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2170-5-23**] 08:52 AM
   Ciprofloxacin - [**2170-5-23**] 09:47 AM
   Caspofungin - [**2170-5-23**] 04:15 PM
   Vancomycin - [**2170-5-23**] 07:47 PM
   Acyclovir - [**2170-5-23**] 10:59 PM
   Cefipime - [**2170-5-23**] 11:00 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-23**] 08:39 AM
   Fentanyl - [**2170-5-23**] 02:16 PM
   Enoxaparin (Lovenox) - [**2170-5-23**] 07:47 PM
   Furosemide (Lasix) - [**2170-5-24**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Patient non-communicative
   Flowsheet Data as of  [**2170-5-24**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 78 (59 - 95) bpm
   BP: 122/64(79) {105/59(73) - 136/82(93)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  4,298 mL
                                                                    886 mL
   PO:
   TF:
   IVF:
                                                                  2,572 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  4,120 mL
                                                                  2,395 mL
   Urine:
                                                                  4,120 mL
                                                                  2,395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                 -1,509 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ///39/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: No(t) Distended, Softness of abdomen difficult to assess due
   to skin thickening
   Extremities: Right: lower extremity absent edema, Left: lower extremity
   absent edema, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, Markedly thickened and [**Doctor Last Name 734**] diffusely.
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Sedated, Tone: Not
   assessed
   Labs / Radiology
   311 K/uL
   7.7 g/dL
   197 mg/dL
   0.3 mg/dL
   39 mEq/L
   2.6 mEq/L
   17 mg/dL
   93 mEq/L
   138 mEq/L
   24.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
                             [**2170-5-21**]  09:31 PM
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
   WBC
   9.9
   5.2
   4.9
   4.9
   Hct
   29.9
   25.6
   25.3
   24.5
   Plt
   327
   263
   298
   311
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   25
   40
   40
   40
   Glucose
   127
   232
   180
   271
   190
   197
   Other labs: PT / PTT / INR:11.2/35.2/0.9, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:88.8 %, Band:0.0 %, Lymph:5.7 %,
   Mono:5.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Microbiology: [**2170-5-22**] BAL:
     GRAM STAIN (Final [**2170-5-22**]):
         4+   (>10 per 1000X FIELD):   PMNs
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS.
      RESPIRATORY CULTURE (Prelim):    NO GROWTH, <1000 CFU/ml.
      LEGIONELLA CULTURE (Prelim):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for pneumocystis jirovecii (carinii):
   NEGATIVE
   Assessment and Plan
   33 year old male with h/o large B-cell lymphoma status post allogenic
   stem cell transplant in [**2166**], complicated by severe graft versus host
   disease of the skin and oral mucosa. Recent hospital admissions with
   fungemia and s. pneumo bacteremia. For this admission he presented with
   fever, dyspnea, and abdominal pain.
   #Respiratory failure: Possibly mixed with components of hypoxemic and
   hypercapnic repiratory failure. Likely primarily caused by pulmonary
   infection.
   - Continue mechanical ventilation. Move towards liberation from vent by
   lightening sedation today and then switching to a pressure support mode
   again today. Possible trial with higher pressure support settings today
   than yesterday.
   - f/u CXR today.
   -Was > 1.5 L negative fluid balance since 0000 hours this morning.
   Still up ~7 L for admission. Should continue to diuresis with 20mg IV
   furosemide as BP and renal function tolerates as pulmonary edema may be
   contributing to failure to liberate patient from ventilator.
   #Sepsis: Likely pulmonary source given respiratory failure in setting
   of worsening CXR appearance as well as fact that sputum gram stain from
   bronchoscopy shows multiple PMNs and gram positive cocci in pairs.
   - F/U blood cultures from outside hospital as well as pending cultures
   here. No growth to date thus far.
   - F/U on sputum culture from bronchoscopy. No growth to date thus far.
   - Continue caspofungin, cefipime, and vancomycin. Cipro was D/C
   yesterday.
   - Be aware of attenuated fever curve due to hydrocortisone.
   #Hypergammaglobulinemia:
   - Per BMT recs, patient may benefit from IV Ig therapy. Will follow-up
   with them on dosing for IV Ig.
   #Hyperglycemia: More difficult to control yesterday.
   - On insulin infusion now.
   #GVHD: Resulting from allogenic BMT. Extensive skin and oral
   involvement.
   - Continue home immunosupressive regimen including tacrolimus and
   hydrocortisone as tolerated by route of medication. Still no PO access
   available.
   - Get tacrolimus level today.
   - Continue acyclovir (160 MG IV daily) and bactrim prophylaxis.
   #Hx of PE:
   - Continue lovenox systemic anticoagulation home regimen.
   #Hx of cardiomyopathy: Previous EF of 40-45%. Baseline tachycardia of
   100s-110s.
   - Hold nodal blocking agents at this time.
   #FEN: TPN is standard home regimen for patient
   - Continue TPN per nutrition recs.
   #Code: Full Code
   #Communication: Will arrange joint family meeting with [**Hospital Unit Name 44**] team and
   BMT team. Need to address goals of care.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-23**] 05:36 PM 71 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: Boots and (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:  HOB above 30 degrees
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   In assessment and plan, the bullet heading
Hypergammaglobulinemia
   should actually be
Hypogammaglobulinemia
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3382**], MD
   on:[**2170-5-25**] 08:10 ------

2170-05-24 10:52:00 Physician Attending Progress Note
Chief Complaint: GVHD, Resp Failure, Polymicrobial PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Trial of PSV which lasted only 10 minutes before he failed. Back on
   CMV.
   Hypogammaglobulinemia documented - will give IvIg
   Started on insulin infusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-5-23**] 09:47 AM
   Caspofungin - [**2170-5-23**] 04:15 PM
   Vancomycin - [**2170-5-24**] 07:30 AM
   Bactrim (SMX/TMP) - [**2170-5-24**] 08:35 AM
   Acyclovir - [**2170-5-24**] 09:45 AM
   Cefipime - [**2170-5-24**] 09:45 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Fentanyl - [**2170-5-23**] 02:16 PM
   Pantoprazole (Protonix) - [**2170-5-24**] 07:52 AM
   Enoxaparin (Lovenox) - [**2170-5-24**] 07:52 AM
   Furosemide (Lasix) - [**2170-5-24**] 07:52 AM
   Other medications:
   hydrocort, cellcept, tacrolimus, singulair
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-24**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 71 (59 - 95) bpm
   BP: 132/77(89) {115/59(73) - 136/82(93)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  4,298 mL
                                                                  2,260 mL
   PO:
   TF:
   IVF:
                                                                  2,572 mL
                                                                  1,508 mL
   Blood products:
   Total out:
                                                                  4,120 mL
                                                                  2,595 mL
   Urine:
                                                                  4,120 mL
                                                                  2,595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                   -335 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: ///39/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm - severe GVHD
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   311 K/uL
   197 mg/dL
   0.3 mg/dL
   39 mEq/L
   2.6 mEq/L
   17 mg/dL
   93 mEq/L
   138 mEq/L
   24.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2170-5-20**]  05:32 AM
                             [**2170-5-21**]  04:17 AM
                             [**2170-5-21**]  09:31 PM
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
   WBC
   9.9
   5.2
   4.9
   4.9
   Hct
   29.9
   25.6
   25.3
   24.5
   Plt
   327
   263
   298
   311
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   25
   40
   40
   40
   Glucose
   127
   232
   180
   271
   190
   197
   Other labs: PT / PTT / INR:11.2/35.2/0.9, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:88.8 %, Band:0.0 %, Lymph:5.7 %,
   Mono:5.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   33 yo man with h/o sct for lymphoma, c/b GVHD in ICU with hypoxemia,
   fever, and hypotension.
    1. Hypotension/Fever/Sepsis: Most likely source is dense infiltrates
   in lungs bilaterally.
      -Continuing with empiric cefepime, vanco, caspo, acyclovir.
      -F/u Cultures
      -Stress dose steroids for now.
      -Appears fluid overloaded - will diurese as BP tolerates with 1
   liter goal
      -Hypogam - will speak with BMT about IV Ig infusions
   2. Hypoxemia/Hypercarbia: Due to large bilateral
   infiltrates/atelectasis.
    Now intubated on full vent support.
    Lighten sedation; consider pressure support trial today with higher
   PSV
   3. GVHD: Continue steroids, Prograf, Cellcept.
       Montelukast at 10mg  for GVHD
    4. PE: Cont LMWH after thoracentesis
     5. ppx: iv ppi, LMWH (therapeutic), TPN
     6. Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-23**] 05:36 PM 71 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2170-05-25 08:08:00 Physician Resident Progress Note
Chief Complaint: Fevers, dyspnea
   24 Hour Events:
   # Patient doing well on PS ventilation mode of 20/5.
   # Primary oncologist has been emailed to arrange for family meeting
   today.
   # BP dropped slightly after second lasix dose yesterday.
   # Received IVIG 25g x 1 for hypogammaglobulinemia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-5-23**] 09:47 AM
   Caspofungin - [**2170-5-23**] 04:15 PM
   Bactrim (SMX/TMP) - [**2170-5-24**] 08:35 AM
   Vancomycin - [**2170-5-24**] 07:35 PM
   Cefipime - [**2170-5-24**] 10:07 PM
   Acyclovir - [**2170-5-25**] 01:55 AM
   Fluconazole - [**2170-5-25**] 04:02 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-24**] 07:52 AM
   Enoxaparin (Lovenox) - [**2170-5-24**] 07:52 AM
   Furosemide (Lasix) - [**2170-5-24**] 07:52 AM
   Lorazepam (Ativan) - [**2170-5-24**] 04:30 PM
   Fentanyl - [**2170-5-24**] 06:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Patient is currently sedated on mechanical ventilation.
   ROS not assessed.
   Flowsheet Data as of  [**2170-5-25**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 66 (62 - 116) bpm
   BP: 117/69(80) {104/51(64) - 139/82(97)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (3 - 8)mmHg
   Total In:
                                                                  4,524 mL
                                                                  1,488 mL
   PO:
   TF:
   IVF:
                                                                  2,627 mL
                                                                    687 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                    980 mL
   Urine:
                                                                  5,575 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,051 mL
                                                                    508 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 548 (548 - 735) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: 7.49/59/119/40/19
   Ve: 6.9 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: At left base.,
   Rhonchorous: bilaterally, improving)
   Abdominal: Bowel sounds present, No(t) Distended, Softness hard to
   determine due to GVHD skin thickening.
   Extremities: Right: Lower , edema absent, Left: Lower , edema absent,
   No(t) Cyanosis, Right elbow bandage covering pressure ulcer.
   Musculoskeletal: Muscle wasting, In legs.
   Skin:  Not assessed, Marked skin thickening and graying over entire
   body.
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   319 K/uL
   7.8 g/dL
   84 mg/dL
   0.2 mg/dL
   40 mEq/L
   3.0 mEq/L
   16 mg/dL
   97 mEq/L
   141 mEq/L
   25.1 %
   4.9 K/uL
        [image002.jpg]
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
                             [**2170-5-24**]  10:57 AM
                             [**2170-5-24**]  03:22 PM
                             [**2170-5-25**]  04:58 AM
   WBC
   5.2
   4.9
   4.9
   4.9
   Hct
   25.6
   25.3
   24.5
   25.1
   Plt
   263
   298
   311
   319
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.2
   0.2
   TCO2
   40
   40
   46
   Glucose
   232
   180
   271
   190
   197
   171
   84
   Other labs: PT / PTT / INR:13.0/34.0/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:88.8 %, Band:0.0 %, Lymph:5.7 %,
   Mono:5.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Microbiology: [**2170-5-24**] - C. Diff Toxin assay - PENDING
   [**2170-5-22**] - BAL:
   --GRAM STAIN (Final [**2170-5-22**]):
         4+   PMNs
         1+    Gram POS cocci in pairs.
   --RESPIRATORY Cx: NO GROWTH, <1000 CFU/ml.
   --LEGIONELLA CULTURE (Prelim): NO LEGIONELLA ISOLATED.
   --Pneumocystis jirovecii (carinii): NEGATIVE
   --FUNGAL CULTURE (Prelim):
   --NOCARDIA CULTURE (Prelim):
   --VIRAL CULTURE (Prelim):    No Virus isolated so far.
   Assessment and Plan
   33 year old male with h/o large B-cell lymphoma status post allogenic
   stem cell transplant in [**2166**], complicated by severe graft versus host
   disease of the skin and oral mucosa. Recent hospital admissions with
   fungemia and s. pneumo bacteremia. For this admission he presented with
   fever, dyspnea, and abdominal pain.
   #Respiratory failure: Possibly mixed with components of hypoxemic and
   hypercapnic repiratory failure. Likely primarily caused by pulmonary
   infection.
   - Continue mechanical ventilation. Doing well on PS of 20/5 overnight.
   Move towards lower PS levels today. FiO2 may be decreased from 50% to
   40%.
   - Diuresis continued yesterday to keep patient essentially even on I/O.
   Blood pressure dropped a bit overnight, so we will hold off on diuresis
   for now. Rhonchi still present, but sounds somewhat improved over last
   two days. CXR from today shows greatly improved aeration (predominately
   at apicies) compared to [**2170-5-23**].
   #Sepsis: Likely pulmonary source given respiratory failure in setting
   of worsening CXR appearance as well as fact that sputum gram stain from
   bronchoscopy shows multiple PMNs and gram positive cocci in pairs.
   - F/U blood cultures from outside hospital as well as pending cultures
   here. No growth to date thus far.
   - F/U on sputum culture from bronchoscopy. No growth to date thus far.
   - Continue caspofungin, cefipime, and vancomycin.
   - Be aware of attenuated fever curve due to hydrocortisone.
   #Hypogammaglobulinemia:
   - Per BMT recs, patient received IV Ig 25 g. Pharmacy reported that
   dosing is a one time dose for hypogammaglobulinemia.
   #Hyperglycemia:
   - On insulin infusion now.
   #GVHD: Resulting from allogenic BMT. Extensive skin and oral
   involvement.
   - Continue home immunosupressive regimen including tacrolimus and
   hydrocortisone as tolerated by route of medication. Still no PO access
   available; therefore, Gleevec will continue to be held.
   - Tacrolimus level drawn with AM labs; will follow up this afternoon.
   - Continue acyclovir (160 mg IV daily) and bactrim prophylaxis.
   #Hx of PE:
   - Continue lovenox systemic anticoagulation home regimen.
   #Hx of cardiomyopathy: Previous EF of 40-45%. Baseline tachycardia of
   100s-110s.
   - Hold nodal blocking agents at this time.
   #FEN: TPN is standard home regimen for patient
   - Continue TPN per nutrition recs.
   #Code: Full Code
   #Communication: Will hold joint family meeting with [**Hospital Unit Name 44**] team and BMT
   team this afternoon. Need to address goals of care.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-24**] 05:47 PM 104 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Please note that under the
24 Hour Events
 section and the
Assessment
   and Plan
,  we were informed on [**2170-5-25**] by the blood bank that the
   infusion of 25 g IVIG indicated for hypogammaglobulinemia on [**2170-5-24**]
   did not occur. Patient was susequently dose with the 25 g IVIG on the
   night of [**2170-5-25**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3382**], MD
   on:[**2170-5-26**] 07:14 ------

2170-05-25 11:17:00 Physician Attending Progress Note
Chief Complaint: GVHD, Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Doing well on PSV trial at 20/5
   Family Meeting today with Oncologist
   IvIg received
   BP tenuous, drops with diuresis
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-5-23**] 09:47 AM
   Caspofungin - [**2170-5-23**] 04:15 PM
   Cefipime - [**2170-5-24**] 10:07 PM
   Fluconazole - [**2170-5-25**] 04:02 AM
   Vancomycin - [**2170-5-25**] 08:00 AM
   Acyclovir - [**2170-5-25**] 09:00 AM
   Bactrim (SMX/TMP) - [**2170-5-25**] 10:17 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 4.5 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-5-24**] 04:30 PM
   Fentanyl - [**2170-5-24**] 06:03 PM
   Pantoprazole (Protonix) - [**2170-5-25**] 07:30 AM
   Enoxaparin (Lovenox) - [**2170-5-25**] 08:00 AM
   Other medications:
   docusate, hydrocortisone, cellcept, chlorhexidine, tacrolimus,
   montelukast, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-25**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 82 (62 - 116) bpm
   BP: 138/86(99) {104/51(64) - 139/86(99)} mmHg
   RR: 24 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 12 (3 - 50)mmHg
   Total In:
                                                                  4,524 mL
                                                                  2,603 mL
   PO:
   TF:
   IVF:
                                                                  2,627 mL
                                                                  1,459 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                  1,530 mL
   Urine:
                                                                  5,575 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,051 mL
                                                                  1,073 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 548 (548 - 735) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: 7.49/59/119/40/19
   Ve: 6.9 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   319 K/uL
   84 mg/dL
   0.2 mg/dL
   40 mEq/L
   3.0 mEq/L
   16 mg/dL
   97 mEq/L
   141 mEq/L
   25.1 %
   4.9 K/uL
        [image002.jpg]
                             [**2170-5-21**]  09:59 PM
                             [**2170-5-21**]  11:27 PM
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
                             [**2170-5-24**]  10:57 AM
                             [**2170-5-24**]  03:22 PM
                             [**2170-5-25**]  04:58 AM
   WBC
   5.2
   4.9
   4.9
   4.9
   Hct
   25.6
   25.3
   24.5
   25.1
   Plt
   263
   298
   311
   319
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.2
   0.2
   TCO2
   40
   40
   46
   Glucose
   232
   180
   271
   190
   197
   171
   84
   Other labs: PT / PTT / INR:13.0/34.0/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:88.8 %, Band:0.0 %, Lymph:5.7 %,
   Mono:5.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Imaging: Infiltrates improved
   Assessment and Plan
   33 yo man with h/o sct for lymphoma, c/b GVHD in ICU with hypoxemia,
   fever, and hypotension.
     1. Hypotension/Fever/Sepsis: Most likely source is dense infiltrates
   in lungs bilaterally.
       -Continuing with empiric cefepime, vanco, caspo, acyclovir.
      -F/u Cultures
       -Stress dose steroids for now.
       -Continues to appear fluid overloaded - will diurese as BP
   tolerates with 1/2 liter goal today
       -Hypogam - received IV Ig infusions
   2. Hypoxemia/Hypercarbia: Due to large bilateral
   infiltrates/atelectasis.
       Infiltrates improved. Some success with PSV trial...will continue
   to wean
       Lighten sedation - RSBI 60 might be able to extubate tomorrow AM if
   he continues to do well
   3. GVHD: Continue steroids, Prograf (level pending), Cellcept.
        Montelukast at 10mg  for GVHD
   4. PE: Cont LMWH
    5. ppx: iv ppi, LMWH (therapeutic), TPN
     6. Full Code
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-24**] 05:47 PM 104 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-05-26 08:12:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, sepsis
   24 Hour Events:
   # Spontaneous breathing trial tolerated for 2 hours this AM.
   # Attempt to diurese continues with Lasix 20 mg being given twice
   yesterday.
   # Discovered that patient had not received IVIG yesterday. Was dosed
   with 25 g IVIG last night, nidicated for hypogammaglobulinemia.
   # Tacrolimus 24-hour trough 1.8; however, no need to check more levels.
   # Patient's primary oncologist came by to see family yesterday,
   specific goals of care were not discussed. No change in patient's code
   status or treatment plan at this time.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2170-5-23**] 09:47 AM
   Caspofungin - [**2170-5-23**] 04:15 PM
   Bactrim (SMX/TMP) - [**2170-5-25**] 10:17 AM
   Vancomycin - [**2170-5-25**] 11:00 PM
   Cefipime - [**2170-5-26**] 12:25 AM
   Acyclovir - [**2170-5-26**] 02:05 AM
   Fluconazole - [**2170-5-26**] 03:56 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 5.5 units/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-25**] 07:30 AM
   Enoxaparin (Lovenox) - [**2170-5-25**] 08:00 AM
   Morphine Sulfate - [**2170-5-25**] 02:20 PM
   Furosemide (Lasix) - [**2170-5-25**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Patient unable to respond to specific questions.
   Flowsheet Data as of  [**2170-5-26**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 70 (67 - 105) bpm
   BP: 134/74(88) {116/59(74) - 145/86(99)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 12 (11 - 335)mmHg
   Total In:
                                                                  5,532 mL
                                                                  1,416 mL
   PO:
   TF:
   IVF:
                                                                  2,547 mL
                                                                    646 mL
   Blood products:
                                                                    507 mL
   Total out:
                                                                  4,300 mL
                                                                  1,280 mL
   Urine:
                                                                  4,300 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,232 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 67 (67 - 593) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 34
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: ///42/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, Patient awakes briefly in
   response to name.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : Right mid-lung frontal
   field., Rhonchorous: Diffusely coarse breath sounds.)
   Abdominal: No(t) Distended, Hypoactive bowel sounds.
   Extremities: Right: Absent lower extremity edema., Left: Absent lower
   extremity edema., No(t) Cyanosis, Pneumoboots in place on lower
   extremities.
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Skin markedly thickened and [**Doctor Last Name 734**].
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, Patient arouses to name.
   Labs / Radiology
   306 K/uL
   7.7 g/dL
   116 mg/dL
   0.3 mg/dL
   42 mEq/L
   3.0 mEq/L
   16 mg/dL
   98 mEq/L
   144 mEq/L
   24.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2170-5-22**]  02:20 AM
                             [**2170-5-22**]  05:29 AM
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
                             [**2170-5-24**]  10:57 AM
                             [**2170-5-24**]  03:22 PM
                             [**2170-5-25**]  04:58 AM
                             [**2170-5-25**]  03:17 PM
                             [**2170-5-26**]  04:43 AM
   WBC
   5.2
   4.9
   4.9
   4.9
   5.1
   Hct
   25.6
   25.3
   24.5
   25.1
   24.9
   Plt
   263
   298
   311
   319
   306
   Cr
   0.4
   0.4
   0.3
   0.3
   0.2
   0.2
   0.2
   0.3
   TCO2
   40
   46
   Glucose
   180
   271
   190
   197
   171
   84
   103
   116
   Other labs: PT / PTT / INR:13.1/31.5/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:88.8 %, Band:0.0 %, Lymph:5.7 %,
   Mono:5.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Microbiology: [**2170-5-23**] - Stool C. Diff:
        Negative for c. diff toxin
   [**2170-5-22**] - BAL:
   - GRAM STAIN (Final):
        4+ PMNs
        1+ Gram POS cocci in pairs
   - RESPIRATORY Cx (Final):
        NO GROWTH, <1000 CFU/ml.
   - LEGIONELLA CULTURE (Prelim):
        NO LEGIONELLA ISOLATED.
   - Pneumocystis jirovecii (Final):
        NEGATIVE for Pneumocystis jirvovecii (carinii).
   - FUNGAL CULTURE (Prelim):
        NO FUNGUS ISOLATED.
   - NOCARDIA CULTURE (Prelim):
        NO NOCARDIA ISOLATED.
   - VIRAL CULTURE (Prelim):
        No Virus isolated so far.
   Assessment and Plan
   33 year old male with h/o large B-cell lymphoma status post allogenic
   stem cell transplant in [**2166**], complicated by severe graft versus host
   disease of the skin and oral mucosa. Recent hospital admissions with
   fungemia and s. pneumo bacteremia. For this admission he presented with
   fever, dyspnea, and abdominal pain.
   #Respiratory failure: Possibly mixed with components of hypoxemic and
   hypercapnic repiratory failure. Likely primarily caused by pulmonary
   infection. Patient has improved greatly over last 3 days.
   - Spontaneous breathing trial this AM with good tidal volumes. Patient
   will remain on PS with low settings while liberated from sedation with
   goal of extubation later today or early tomorrow.
   - Diuresis should continue today as tolerated by patient's BP and renal
   function. CXR still with evidence of pulmonary vasculature volume
   overload.
   #Sepsis: Likely pulmonary source given respiratory failure in setting
   of worsening CXR appearance as well as fact that sputum gram stain from
   bronchoscopy shows multiple PMNs and gram positive cocci in pairs.
   - F/U blood cultures from outside hospital as well as pending cultures
   here. No growth to date thus far.
   - F/U on sputum culture from bronchoscopy. No growth to date thus far.
   - Continue fluconazole, cefipime, and vancomycin.
   - Be aware of attenuated fever curve due to hydrocortisone.
   - Patient is c. diff toxin negative.
   #Hypogammaglobulinemia:
   - Patient received IVIG 25 g last night.
   #Hyperglycemia:
   - On insulin infusion now.
   #GVHD: Resulting from allogenic BMT. Extensive skin and oral
   involvement.
   - Continue home immunosupressive regimen including tacrolimus and
   hydrocortisone as tolerated by route of medication. Still no PO access
   available; therefore, Gleevec will continue to be held.
   - Tacrolimus level is sub-therapeutic; however, this is less important
   in the setting of GVHD. No more Tacrolimus levels are needed at this
   time. Continue with current dose.
   - Continue acyclovir and bactrim prophylaxis.
   #Hx of PE:
   - Continue lovenox systemic anticoagulation home regimen.
   #Hx of cardiomyopathy: Previous EF of 40-45%. Baseline tachycardia of
   100s-110s.
   - Hold nodal blocking agents at this time.
   #FEN: TPN is standard home regimen for patient
   - Continue TPN per nutrition recs. Fat was added to TPN mixture
   yesterday.
   #Code: Full Code
   #Communication: Patient's primary oncologist stopped by to visit with
   family yesterday. No specific goals of care were discussed, but family
   wishes to continue with current treatment at this time.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2170-5-25**] 06:00 PM 104 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT:  LMWH systemic anticoagulation, Pneumoboots
   Stress ulcer: PPI
   VAP:  HOB elevation, Oral care
   Comments:
   Communication:  Comments: Primary oncologist was here to talk to family
   yesterday.
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   In the Assessment and Plan section:
   - Under the
Sepsis
 heading, please note that Vancomycin will be
   discontinued today due to no gram stain or culture evidence of staph
   growth.
   - Under the
GVHD
 heading please note that the patient
s last dose of
   hydrocortisone will be received today. We will consult BMT team
   regarding need for additional steroids following discontinuation of
   hydrocortisone.
   - Under the
 heading, please note that we plan to address the need
   for TPN and talk to the BMT team to explore the possibility of oral or
   tube feeding for the patient following extubation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3382**], MD
   on:[**2170-5-26**] 11:46 ------

2170-05-27 07:22:00 Physician Resident Progress Note
Chief Complaint: Dyspnea and fevers
   24 Hour Events:
   #Patient extubated yesterday afternoon.
   #Some episodes of tachycardia to 150s associated with coughing
   overnight.
   #Trial of clear liquids; however, patient had difficulty swallowing.
   #Vancomycin D/C'd.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2170-5-25**] 10:17 AM
   Vancomycin - [**2170-5-26**] 08:09 AM
   Cefipime - [**2170-5-26**] 10:01 PM
   Acyclovir - [**2170-5-27**] 01:56 AM
   Fluconazole - [**2170-5-27**] 04:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-26**] 08:00 AM
   Enoxaparin (Lovenox) - [**2170-5-26**] 08:00 AM
   Furosemide (Lasix) - [**2170-5-26**] 07:40 PM
   Hydromorphone (Dilaudid) - [**2170-5-26**] 10:40 PM
   Morphine Sulfate - [**2170-5-27**] 12:54 AM
   Lorazepam (Ativan) - [**2170-5-27**] 05:09 AM
   Fentanyl - [**2170-5-27**] 05:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: Parenteral nutrition
   Respiratory: Cough, Thick secretaion.
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Musculoskeletal: Joint pain
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2170-5-27**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 75 (64 - 97) bpm
   BP: 136/69(87) {116/61(76) - 147/84(99)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 5 (4 - 12)mmHg
   Total In:
                                                                  5,006 mL
                                                                  1,163 mL
   PO:
   TF:
   IVF:
                                                                  2,010 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  5,260 mL
                                                                  1,750 mL
   Urine:
                                                                  5,260 mL
                                                                  1,720 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -254 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 521 (67 - 525) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///39/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), S3, S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: Improving.)
   Abdominal: Non-tender, Bowel sounds hypoactive.
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Thickened and [**Doctor Last Name 734**].
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Paralyzed, Tone: Not assessed
   Labs / Radiology
   327 K/uL
   8.8 g/dL
   216 mg/dL
   0.3 mg/dL
   39 mEq/L
   4.0 mEq/L
   15 mg/dL
   92 mEq/L
   136 mEq/L
   27.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
                             [**2170-5-24**]  10:57 AM
                             [**2170-5-24**]  03:22 PM
                             [**2170-5-25**]  04:58 AM
                             [**2170-5-25**]  03:17 PM
                             [**2170-5-26**]  04:43 AM
                             [**2170-5-26**]  03:25 PM
                             [**2170-5-27**]  04:59 AM
   WBC
   4.9
   4.9
   4.9
   5.1
   5.2
   Hct
   25.3
   24.5
   25.1
   24.9
   27.7
   Plt
   298
   311
   319
   306
   327
   Cr
   0.4
   0.3
   0.3
   0.2
   0.2
   0.2
   0.3
   0.3
   0.3
   TCO2
   46
   Glucose
   271
   190
   197
   171
   84
   103
   116
   93
   216
   Other labs: PT / PTT / INR:13.0/29.9/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:75.4 %, Band:0.0 %, Lymph:13.9 %,
   Mono:10.2 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   33 year old male with h/o large B-cell lymphoma status post allogenic
   stem cell transplant in [**2166**], complicated by severe graft versus host
   disease of the skin and oral mucosa. Recent hospital admissions with
   fungemia and s. pneumo bacteremia. For this admission he presented with
   fever, dyspnea, and abdominal pain.
   #Respiratory failure: Possibly mixed with components of hypoxemic and
   hypercapnic repiratory failure. Likely primarily caused by pulmonary
   infection, cannot rule out pulmonary GVHD involvement. Patient has
   improved greatly since [**2170-5-22**].
   - Patient was extubated and is now on face tent at 40%. Has been doing
   well aside from having thick secretions.
   - Diuresis should continue today as tolerated by patient's BP and renal
   function. CXR still with evidence of pulmonary vasculature volume
   overload.
   - F/U blood cultures from outside hospital as well as pending cultures
   here. No growth to date thus far.
   - F/U on sputum culture from bronchoscopy. No growth to date thus far.
   - Continue fluconazole and cefipime. Now day 7 of 10 for each
   antibiotic.
   - Patient is c. diff toxin negative.
   #Tachycardia:
   -Several episodes overnight associated with patient coughin while
   trying to bring up thick respiratory secretions.
   -Although though to be sinus tach related to patient discomfort, we
   will restart metoprolol at level of 12.5 mg PO BID as it may aid in
   controlling tachycardia to provide more ventricular filling in setting
   of documented cardiomyopathy.
   #Hypogammaglobulinemia:
   - Patient received IVIG 25 g on [**2170-5-25**]
   #Hyperglycemia:
   - Insulin infusion has been switched to NPH and sliding scale.
   #GVHD: Resulting from allogenic BMT. Extensive skin and oral
   involvement. Presumed pulmonary involvement considering recent course.
   - Continue home immunosupressive regimen of tacrolimus and cellcept.
   Still no PO access available; therefore, Gleevec will continue to be
   held.
   - Tacrolimus level is sub-therapeutic; however, this is less important
   in the setting of GVHD. No more Tacrolimus levels are needed at this
   time. Continue with current dose.
   - Continue acyclovir and bactrim prophylaxis.
   # Depression: Patient with flat affect and depressed mood.
   - Start patient on duloxetine and discuss this medication addition with
   BMT given the many complex interactions of antidepressants.
   #Hx of PE:
   - Continue lovenox systemic anticoagulation home regimen.
   #Hx of cardiomyopathy: Previous EF of 40-45%. Baseline tachycardia of
   100s-110s.
   #FEN: TPN is standard home regimen for patient
   - Continue TPN per nutrition recs.
   - Now that patient is extubated, has been restarted on clear liquid
   diet; however, he had difficulty swallowing yesterday.
   -  Will review records and question BMT team regarding possibility of
   tube feeding for this patient, as TPN increases his risk for developing
   bacteremia. I.E. is there documented evidence of stomach or small
   intestine involvment? If not is there another contraindication to
   patient having more oral feedings that will allow him to be liberated
   from TPN dependence.
   #Code: Full Code
    #Communication: Patient's primary oncologist stopped by to visit with
   family yesterday. No specific goals of care were discussed, but family
   wishes to continue with current treatment at this time.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-26**] 07:00 PM 104 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-05-27 11:04:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33 yo man with large B cell lymphoma s/p alloSCT 05 c/b severe GVHD.
   Recent fungemia and s pneumo pneumonia.
   24 Hour Events:
   Extubated yest afternoon. Required frequent nursing care overnight for
   suctioning.
   Tried clear liquids yesterday but he was unable to swallow.
   Stopped vanc.
   Diuresed yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-26**] 08:09 AM
   Fluconazole - [**2170-5-27**] 04:08 AM
   Bactrim (SMX/TMP) - [**2170-5-27**] 08:00 AM
   Acyclovir - [**2170-5-27**] 10:00 AM
   Cefipime - [**2170-5-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-5-26**] 07:40 PM
   Hydromorphone (Dilaudid) - [**2170-5-26**] 10:40 PM
   Morphine Sulfate - [**2170-5-27**] 12:54 AM
   Lorazepam (Ativan) - [**2170-5-27**] 05:09 AM
   Fentanyl - [**2170-5-27**] 05:09 AM
   Pantoprazole (Protonix) - [**2170-5-27**] 08:00 AM
   Enoxaparin (Lovenox) - [**2170-5-27**] 08:00 AM
   Other medications:
   cefipime, ppi, lovenox, cellcept, bactrim, tacrolamis, acyclovir,
   fluconazole, singulair, insulin ss, nph
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems:
   Nutritional Support: NPO, Parenteral nutrition
   Respiratory: Cough, secretions
   Gastrointestinal: Nausea, dysphagia
   Flowsheet Data as of  [**2170-5-27**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 91 (64 - 97) bpm
   BP: 131/83(95) {116/61(76) - 147/84(99)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 5 (4 - 12)mmHg
   Total In:
                                                                  5,006 mL
                                                                  2,051 mL
   PO:
   TF:
   IVF:
                                                                  2,010 mL
                                                                    940 mL
   Blood products:
   Total out:
                                                                  5,260 mL
                                                                  2,810 mL
   Urine:
                                                                  5,260 mL
                                                                  2,780 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -254 mL
                                                                   -759 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 521 (521 - 521) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///39/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: severe GVHD
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand, unable to sit up with
   assistance
   Skin:  Warm, severe GVHD entire body
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: minimal movement, Tone: Decreased
   Labs / Radiology
   8.8 g/dL
   327 K/uL
   216 mg/dL
   0.3 mg/dL
   39 mEq/L
   4.0 mEq/L
   15 mg/dL
   92 mEq/L
   136 mEq/L
   27.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2170-5-22**]  11:52 AM
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
                             [**2170-5-24**]  10:57 AM
                             [**2170-5-24**]  03:22 PM
                             [**2170-5-25**]  04:58 AM
                             [**2170-5-25**]  03:17 PM
                             [**2170-5-26**]  04:43 AM
                             [**2170-5-26**]  03:25 PM
                             [**2170-5-27**]  04:59 AM
   WBC
   4.9
   4.9
   4.9
   5.1
   5.2
   Hct
   25.3
   24.5
   25.1
   24.9
   27.7
   Plt
   298
   311
   319
   306
   327
   Cr
   0.4
   0.3
   0.3
   0.2
   0.2
   0.2
   0.3
   0.3
   0.3
   TCO2
   46
   Glucose
   271
   190
   197
   171
   84
   103
   116
   93
   216
   Other labs: PT / PTT / INR:13.0/29.9/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:75.4 %, Band:0.0 %, Lymph:13.9 %,
   Mono:10.2 %, Eos:0.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Resp: Hypoxic and hypercarbic resp failure with bilateral infiltrates
   and effusions. Intubated 5 days. Doing well since extubation yesterday.
   Cont cefempime empiric for sepsis with presumed pulm source, tday is
   day 7 of 10.
   GVHD skin, esophagus, presumed GI tract and lung. Tacro, possible
   prednisone (d/w BMT svce), singulair. Acyclovir, bactrim prophylaxis.
   Also discuss with BMT need for continued TPN vs possibility of enteral
   feeding. Check acetaminophen absorption test if he can take PO liquid
   acetaminophen.
   H/O PE, on lovenox.
   Completed hydrocort.
   Start antidepressant.
   Protonix, PPI.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-26**] 07:00 PM 104 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for now given high nursing needs.
   Total time spent:

2170-05-28 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cannot [**Last Name (LF) 553**], [**First Name3 (LF) **] could not perform tylenol absorption test.
   - Goal was to keep net balance even to negative.  Right now he is XXXL
   - Per, BMT, recheck CMV viral load in the AM.
   Patient complains of Nausea,
   Otherwise is well.
   Denies CP, SOB, fevers, chills, abdominal pain, diarrhea (last bm 2
   days ago),
   Nursing: mention triple lumen IJ and need for LT access
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-26**] 08:09 AM
   Bactrim (SMX/TMP) - [**2170-5-27**] 08:00 AM
   Cefipime - [**2170-5-27**] 10:00 PM
   Acyclovir - [**2170-5-28**] 02:20 AM
   Fluconazole - [**2170-5-28**] 03:57 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-27**] 08:00 AM
   Enoxaparin (Lovenox) - [**2170-5-27**] 08:00 AM
   Lorazepam (Ativan) - [**2170-5-27**] 07:53 PM
   Hydromorphone (Dilaudid) - [**2170-5-28**] 05:14 AM
   Metoprolol - [**2170-5-28**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-5-28**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 82 (73 - 111) bpm
   BP: 131/85(96) {117/76(87) - 140/88(99)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,800 mL
                                                                  1,237 mL
   PO:
             TF:
   IVF:
                                                                  1,301 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  5,220 mL
                                                                    600 mL
   Urine:
                                                                  5,190 mL
                                                                    600 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,420 mL
                                                                    637 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Endotracheal tube
   SpO2: 98% on 5 L
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   368 K/uL
   9.6 g/dL
   128 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.4 mEq/L
   18 mg/dL
   96 mEq/L
   133 mEq/L
   31.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
                             [**2170-5-24**]  10:57 AM
                             [**2170-5-24**]  03:22 PM
                             [**2170-5-25**]  04:58 AM
                             [**2170-5-25**]  03:17 PM
                             [**2170-5-26**]  04:43 AM
                             [**2170-5-26**]  03:25 PM
                             [**2170-5-27**]  04:59 AM
                             [**2170-5-28**]  04:55 AM
   WBC
   4.9
   4.9
   4.9
   5.1
   5.2
   5.6
   Hct
   25.3
   24.5
   25.1
   24.9
   27.7
   31.6
   Plt
   298
   311
   319
   [**Telephone/Fax (3) 3429**]
   Cr
   0.3
   0.3
   0.2
   0.2
   0.2
   0.3
   0.3
   0.3
   0.3
   TCO2
   46
   Glucose
   190
   197
   171
   84
   103
   116
   93
   216
   128
   Other labs: PT / PTT / INR:13.3/31.9/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:9.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   33 year old male with h/o large B-cell lymphoma status post allogenic
   stem cell transplant in [**2166**], complicated by severe graft versus host
   disease of the skin and oral mucosa. Recent hospital admissions with
   fungemia and s. pneumo bacteremia. For this admission he presented with
   fever, dyspnea, and abdominal pain.
   #Respiratory failure: Possibly mixed with components of hypoxemic and
   hypercapnic repiratory failure. Likely primarily caused by pulmonary
   infection, cannot rule out pulmonary GVHD involvement. Patient has
   improved greatly since [**2170-5-22**].
   - Patient was extubated and is now on face tent at 40%. Has been doing
   well aside from having thick secretions.
   - Diuresis should continue today as tolerated by patient's BP and renal
   function. CXR still with evidence of pulmonary vasculature volume
   overload.
   - F/U blood cultures from outside hospital as well as pending cultures
   here. No growth to date thus far.
   - F/U on sputum culture from bronchoscopy. No growth to date thus far.
   - Continue fluconazole and cefipime. Now day 7 of 10 for each
   antibiotic.
   - Patient is c. diff toxin negative.
   #Tachycardia:
   -Several episodes overnight associated with patient coughin while
   trying to bring up thick respiratory secretions.
   -Although though to be sinus tach related to patient discomfort, we
   will restart metoprolol at level of 12.5 mg PO BID as it may aid in
   controlling tachycardia to provide more ventricular filling in setting
   of documented cardiomyopathy.
   #Hypogammaglobulinemia:
   - Patient received IVIG 25 g on [**2170-5-25**]
   #Hyperglycemia:
   - Insulin infusion has been switched to NPH and sliding scale.
   #GVHD: Resulting from allogenic BMT. Extensive skin and oral
   involvement. Presumed pulmonary involvement considering recent course.
   - Continue home immunosupressive regimen of tacrolimus and cellcept.
   Still no PO access available; therefore, Gleevec will continue to be
   held.
   - Tacrolimus level is sub-therapeutic; however, this is less important
   in the setting of GVHD. No more Tacrolimus levels are needed at this
   time. Continue with current dose.
   - Continue acyclovir and bactrim prophylaxis.
   # Depression: Patient with flat affect and depressed mood.
   - Start patient on duloxetine and discuss this medication addition with
   BMT given the many complex interactions of antidepressants.
   #Hx of PE:
   - Continue lovenox systemic anticoagulation home regimen.
   #Hx of cardiomyopathy: Previous EF of 40-45%. Baseline tachycardia of
   100s-110s.
   #FEN: TPN is standard home regimen for patient
   - Continue TPN per nutrition recs.
   - Now that patient is extubated, has been restarted on clear liquid
   diet; however, he had difficulty swallowing yesterday.
   -  Will review records and question BMT team regarding possibility of
   tube feeding for this patient, as TPN increases his risk for developing
   bacteremia. I.E. is there documented evidence of stomach or small
   intestine involvment? If not is there another contraindication to
   patient having more oral feedings that will allow him to be liberated
   from TPN dependence.
   #Code: Full Code
    #Communication: Patient's primary oncologist stopped by to visit with
   family yesterday. No specific goals of care were discussed, but family
   wishes to continue with current treatment at this time.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-27**] 07:00 PM 104 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-05-28 12:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated. Secretions are diminishing
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-5-26**] 08:09 AM
   Fluconazole - [**2170-5-28**] 03:57 AM
   Bactrim (SMX/TMP) - [**2170-5-28**] 07:53 AM
   Cefipime - [**2170-5-28**] 09:52 AM
   Acyclovir - [**2170-5-28**] 10:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-5-28**] 07:53 AM
   Enoxaparin (Lovenox) - [**2170-5-28**] 07:53 AM
   Lorazepam (Ativan) - [**2170-5-28**] 10:58 AM
   Hydromorphone (Dilaudid) - [**2170-5-28**] 11:54 AM
   Metoprolol - [**2170-5-28**] 11:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2170-5-28**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 95 (79 - 111) bpm
   BP: 126/83(92) {117/77(87) - 136/88(98)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,801 mL
                                                                  2,539 mL
   PO:
             TF:
   IVF:
                                                                  1,301 mL
                                                                  1,287 mL
   Blood products:
   Total out:
                                                                  5,220 mL
                                                                  1,840 mL
   Urine:
                                                                  5,190 mL
                                                                  1,840 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,419 mL
                                                                    699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   Prolonged exhalation, few mid insp crackles
   Abdominal: Soft, mild abd tenderness
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool, GVHD changes
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed, Disengaged,
   flat affect
   Labs / Radiology
   9.6 g/dL
   368 K/uL
   128 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.4 mEq/L
   18 mg/dL
   96 mEq/L
   133 mEq/L
   31.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2170-5-23**]  04:37 AM
                             [**2170-5-24**]  04:45 AM
                             [**2170-5-24**]  10:57 AM
                             [**2170-5-24**]  03:22 PM
                             [**2170-5-25**]  04:58 AM
                             [**2170-5-25**]  03:17 PM
                             [**2170-5-26**]  04:43 AM
                             [**2170-5-26**]  03:25 PM
                             [**2170-5-27**]  04:59 AM
                             [**2170-5-28**]  04:55 AM
   WBC
   4.9
   4.9
   4.9
   5.1
   5.2
   5.6
   Hct
   25.3
   24.5
   25.1
   24.9
   27.7
   31.6
   Plt
   298
   311
   319
   [**Telephone/Fax (3) 3429**]
   Cr
   0.3
   0.3
   0.2
   0.2
   0.2
   0.3
   0.3
   0.3
   0.3
   TCO2
   46
   Glucose
   190
   197
   171
   84
   103
   116
   93
   216
   128
   Other labs: PT / PTT / INR:13.3/31.9/1.1, ALT / AST:26/23, Alk Phos / T
   Bili:77/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:9.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:337 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Respiratory failure
   GVHD
   s/p SCT
   Lymphoma
   Depression
   Esophageal dysmotility
   Cough has decreased and he seems comfortable breating on low flow nasal
   oxygen.  C/O mild abd pain apparently related to esophageal diilation
   and GVHD.  Unable to take po's - may need TPN for some time. Awaiting
   BMTrecs regarding immunosupprassive rx.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-5-27**] 07:00 PM 104 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2170-5-20**] 01:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes